US04261997
From 3.5 g of 7-fluoro-4,9-dihydro-4-methyl-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic acid, ethyl ester, 50 ml of 1 N aqueous sodium hydroxide and 175 ml of methanol, following the procedure of Example 14, there is obtained 7fluoro-4,9-dihydro-4-methyl-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic acid; mp 295° C., after crystallization from dimethylformamide/methanol.

reactant | 7-fluoro-4,9-dihydro-4-methyl-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic acid, ethyl ester | 3.5 g | FC1=CC=2C(N3C(N(C2C=C1)C)=CC(=N3)C(=O)OCC)=O | C14H12FN3O3
reactant | sodium hydroxide | 1 N, 50 ml | [OH-].[Na+]
solvent | methanol | 175 ml | CO | CH4O
product | 7fluoro-4,9-dihydro-4-methyl-9-oxo-pyrazolo[5,1-b]quinazoline-2-carboxylic acid | FC1=CC=2C(N3C(N(C2C=C1)C)=CC(=N3)C(=O)O)=O | C12H8FN3O3
